* c:\users\mayan\esim-workspace\astablemultivibratorusing555\astablemultivibratorusing555.cir

.include lm555n.sub
x1 gnd capacitor-voltage outputvoltage net-_r1-pad1_ net-_c2-pad1_ capacitor-voltage net-_r1-pad2_ net-_r1-pad1_ lm555n
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
r2  net-_r1-pad2_ capacitor-voltage 10k
c1  capacitor-voltage gnd 0.1u
c2  net-_c2-pad1_ gnd 0.01u
r3  outputvoltage gnd 1k
* u2  outputvoltage plot_v1
* u1  capacitor-voltage plot_v1
v1 net-_r1-pad1_ gnd  dc 10
.tran 1e-03 10e-03 0e-00

* Control Statements 
.control
option noopalter
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(outputvoltage)
plot v(capacitor-voltage)
.endc
.end
